US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(pyridin-3-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-(3-pyridyl)-1,3-thiazole-4-carboxylic acid (0.285 g, 1.381 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.3 g, 1.151 mmol). The product was purified by triturated using DCM. Yield 1.065%. 1H-NMR (400 MHz; CDCl3): δ 1.31 (d, 3H), 4.34 (dd, 1H), 4.48 (dd, 1H), 4.60-470 (m, 1H), 6.63 (d, 1H), 7.37 (dd, 1H), 7.50-7.54 (m, 2H), 7.80 (dd, 1H), 7.88 (d, 1H), 7.98 (d, 1H), 8.13-8.18 (m, 2H), 8.73 (dd, 1H), 9.16 (d, 1H).

reactant | 2-(3-pyridyl)-1,3-thiazole-4-carboxylic acid | 1.381 mmol, 0.285 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)O | C9H6N2O2S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.151 mmol, 0.3 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(pyridin-3-yl)thiazole-4-carboxamide | Yield 1.065% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C=1C=NC=CC1 | C22H17ClN6OS
